* C:\Users\avent\Downloads\LTC1871_BOM_Caps_Rev3.asc
M§Q1 N002 N005 0 0 IRF7811
R1 N006 0 68.1K
R2 N007 0 56K
R3 OUT N007 499K
L1 IN N002 10µ
D1 N002 OUT MBR735
C1a OUT 0 132µ Rser=0.00021
C1b OUT 0 20µ Rser=0.00125
R4 N004 N003 8.66K
C2 N003 0 6.8n
C3 N004 0 100p
X§U1 IN N004 N007 N006 0 0 N005 N001 IN N002 LTC1871
V1 IN 0 {VIN}
C4 N001 0 4.7µ
I1 OUT 0 PWL(0 0.1 0.005 0.1 0.0055 1.5 0.0065 1.5 0.007 .1 0.008 .1 0.0085 2 0.0095 2 0.010 .1)
.model D D
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.mos
.param VIN=9.6
.tran 0 10m 5m
.meas TRAN Vout_before AVG V(OUT) FROM 5m TO 5.4m
.meas TRAN Vout_droop1 MIN V(OUT) FROM 5.5m TO 6.4m
.meas TRAN Vout_recov1 FIND TIME WHEN V(OUT)=12.15 CROSS=2 TD=5.5m
.meas TRAN Vout_idle AVG V(OUT) FROM 7.1m TO 8.4m
.meas TRAN Vout_droop2 MIN V(OUT) FROM 8.5m TO 9.4m
.meas TRAN Vout_recov2 FIND TIME WHEN V(OUT)=12.15 CROSS=2 TD=8.5m
.meas TRAN Vout_ripple PP V(OUT) FROM 8.6m TO 9.4m
.meas TRAN IL_peak MAX I(L1) FROM 5m TO 5.4m
.meas TRAN Pin AVG V(IN)*(-I(V1)) FROM 8.6m TO 9.4m
.meas TRAN Pout AVG V(OUT)*I(I1) FROM 8.6m TO 9.4m
.meas DC_dev RMS V(out) - 12.1985
* BOM Output Cap Bank (Rev 3 --- 2-Apr-2026):
* C1a = 6x22uF GRM31CR61E226M 1206 MLCC 25V | Nominal: 132uF | Rser(bank) = 0.21mOhm
* C1b = 2x10uF GRM21BR61E106K 0805 MLCC 25V | Nominal: 20uF  | Rser(bank) = 1.25mOhm
* Total nominal: 152uF | Est. ~104uF effective after DC-bias derating at 12V | Predicted ripple: ~196mV | Target: <240mV (2%)
.lib LTC1871.sub
.backanno
.end
